*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/R(-55to125[deg])/1.00e-02[uF]/50[V]
* Murata P/N :GCM155R11H103KA40
* Property : C = 1.00e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R11H103KA40 Port1 Port2
C01 Port1 N01 9.97e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.92e-10
R03 N02 N03 4.93e-02
C04 N03 N04 1.19e-06
R04 N03 N04 2.89e+03
C05 N04 N05 2.22e-06
R05 N04 N05 2.20e+02
C06 N05 N06 1.72e-06
R06 N05 N06 5.15e+01
C07 N06 N07 1.42e-06
R07 N06 N07 9.36e+00
C08 N07 N08 1.09e-06
R08 N07 N08 1.37e+00
C09 N08 N09 7.59e-07
R09 N08 N09 2.61e-01
C10 N09 N10 5.90e-07
R10 N09 N10 4.22e-02
L11 N10 N11 5.45e-11
R11 N10 N11 2.12e-01
C12 N11 N12 2.31e-08
L12 N11 N12 1.37e-11
R12 N11 N12 4.28e-02
C13 N12 Port2 4.45e-12
L13 N12 Port2 6.55e-11
R13 N12 Port2 1.45e+01
.ENDS GCM155R11H103KA40
